US07547710B2
To a solution of 2-isobutyl-4-(4-methylphenyl)-6-[(1E)-3-oxoprop-1-en-1-yl]quinoline-3-carbonitrile (4.04 g, 11.4 mmol) in methanol (30 ml)-tetrahydrofuran (30 ml) was added sodium borohydride (216 mg, 5.69 mmol) at 0° C. and the mixture was stirred at room temperature for 10 min. Saturated aqueous ammonium chloride solution was added to the reaction mixture and the mixture was extracted 3 times with ethyl acetate. The combined organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give 6-[(1E)-3-hydroxyprop-1-en-1-yl]-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile (3.08 g, yield 76%) as yellow crystals. Subsequently, tert-butyl {[6-(3-hydroxypropyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate was synthesized by a method similar to the method shown in Example 39(1).

reactant | 2-isobutyl-4-(4-methylphenyl)-6-[(1E)-3-oxoprop-1-en-1-yl]quinoline-3-carbonitrile | 11.4 mmol, 4.04 g | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1C#N)C1=CC=C(C=C1)C)\C=C\C=O | C24H22N2O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 5.69 mmol, 216 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 30 ml | CO | CH4O
product | 6-[(1E)-3-hydroxyprop-1-en-1-yl]-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile | 3.08 g, yield 76% | OC/C=C/C=1C=C2C(=C(C(=NC2=CC1)CC(C)C)C#N)C1=CC=C(C=C1)C | C24H24N2O
